US04025630
2-Benzyl-5,5-dimethyl-10-[4-(2-methylpiperidino)butyryloxy]-8-(2-methyl-5-chlorophenyl-1-methylbutyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride
2-Benzyl-5,5-dimethyl-10-hydroxy-8-(2-methyl-5-chlorophenyl-1-methylbutyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine, γ-(2-methylpiperidino)-butyric acid hydrochloride and dicyclohexylcarbodiimide in equimolar amounts are reacted as in Example 7 to give the desired product.

reactant | 2-Benzyl-5,5-dimethyl-10-hydroxy-8-(2-methyl-5-chlorophenyl-1-methylbutyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine | C(C1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1O)C(CCC)(C)C1=C(C=CC(=C1)Cl)C | C33H38ClNO2
reactant | γ-(2-methylpiperidino)-butyric acid hydrochloride | Cl.CC1N(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 2-Benzyl-5,5-dimethyl-10-[4-(2-methylpiperidino)butyryloxy]-8-(2-methyl-5-chlorophenyl-1-methylbutyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1OC(CCCN1C(CCCC1)C)=O)C(CCC)(C)C1=C(C=CC(=C1)Cl)C | InChI=1S/C43H55ClN2O3.ClH/c1-7-21-43(6,37-27-34(44)19-18-30(37)2)33-25-38(48-40(47)17-13-23-46-22-12-11-14-31(46)3)41-35-29-45(28-32-15-9-8-10-16-32)24-20-36(35)42(4,5)49-39(41)26-33;/h8-10,15-16,18-19,25-27,31H,7,11-14,17,20-24,28-29H2,1-6H3;1H
